US04431807
A solution of 8-amino-6-methoxy-4-methyl-5-(3-trifluoromethylphenoxy)-quinoline (10 g, 29 mmol), prepared as in Example 1, 4-iodo-1-phthalimidohexane (IPH, 10 g, 28 mmol), triethylamine (TEA, 4.5 mL) and 2-ethoxyethanol (10 mL) were heated at 115° for 21/2 hours. One equivalent of IPA and TEA was added and the solution was heated at 115° an additional 2.5 hours. Then one-half equivalent each of IPH and TEA was added and the reaction mixture was heated 5 hours longer. The reaction mixture was diluted with chloroform and washed with water (×3). The organic layer was dried (K2CO3) and concentrated to dryness in vacuo. The oily residue was combined with that obtained from another 8.5 g run and chromatographed over a silica gel column (EM Labs.). Elution with CHCl3 and collection of the fast-moving yellow band afforded the desired phthalimide intermediate (ca. 12 g) contaminated with some IPH. The slower moving material, ca. a 1/1 mixture of product and starting 8-aminoquinoline, was then collected and recycled with IPH and TEA as described above. An additional 7 g of crude product was obtained. The crude material from both runs was combined, dissolved in hot isopropyl alcohol and acidified with 2.7 N HCl-i-PrOH. Pure phthalimide hydrochloride was obtained, 13.2 g (40%), mp 185°-7°.

reactant | IPH | IC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)CC | C14H16INO2
reactant | 8-aminoquinoline | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | HCl i-PrOH | 2.7 N | Cl.CC(C)O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | phthalimide hydrochloride | Cl.C1(C=2C(C(N1)=O)=CC=CC2)=O | InChI=1S/C8H5NO2.ClH/c10-7-5-3-1-2-4-6(5)8(11)9-7;/h1-4H,(H,9,10,11);1H
